US05626791
2-[4-(Benzo[1,3]dioxol-5-ylmethoxy)phenyl]-5-octyloxypyrimidine.
By Mitsunobu etherification of 4-(5-octyloxypyrimidin-2-yl)phenol using benzo[1,3]dioxol-5-ylmethanol analogously to Example 208.

reactant | 4-(5-octyloxypyrimidin-2-yl)phenol | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O2
reactant | benzo[1,3]dioxol-5-ylmethanol | O1COC2=C1C=CC(=C2)CO | C8H8O3
product | 2-[4-(Benzo[1,3]dioxol-5-ylmethoxy)phenyl]-5-octyloxypyrimidine | O1COC2=C1C=CC(=C2)COC2=CC=C(C=C2)C2=NC=C(C=N2)OCCCCCCCC | C26H30N2O4
